US04292404
5.1 g of p-acetoxyhippuryl-L-histidyl-L-leucine methyl ester is dissolved in 20 ml of methanol, and to this solution is added 20 ml of a 1 N.aqueous solution of NaOH at a temperature of 4° C., and after stirring for one hour, the pH of the solution is lowered to 5 by adding HCl, and water and methanol are distilled off. The residue is dissolved in methanol and filtered, and to this solution is added ethyl ether. The crystals deposited after standing at -20° C. are filtered to obtain p-hydroxyhippuryl-L-histidyl-L-leucine.

reactant | p-acetoxyhippuryl-L-histidyl-L-leucine methyl ester | 5.1 g | COC([C@@H](NC([C@@H](NC(CNC(=O)C1=CC=C(C=C1)OC(C)=O)=O)CC1=CNC=N1)=O)CC(C)C)=O | C24H31N5O7
reactant | NaOH | [OH-].[Na+]
reactant | HCl | Cl | ClH
reactant | water | O | H2O
solvent | methanol | 20 ml | CO | CH4O
product | p-hydroxyhippuryl-L-histidyl-L-leucine | OC1=CC=C(C(NCC(=O)N[C@@H](CC2=CNC=N2)C(=O)N[C@@H](CC(C)C)C(=O)O)=O)C=C1 | C21H27N5O6
